US05998605
2-(Cyclopropylamino)-5,6-dichloro-1H-benzimidazole
4,5-Dichloro-1,2-phenylenediamine (6.04 g, 34.1 mmol), cyclopropyl isothiocyanate (3.69 g, 37.2 mmol), 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (20.1 g, 47.4 mmol) and pyridine (135 mL) were used according to general procedure I. The product was recrystallized from acetonitrile to afford 5.82 g (70%) of a yellow solid; m.p. 223-225° C. Anal. Calcd for C10H9Cl2N3 : C, 49.61; H, 3.75; N, 17.36. Found: C, 49.53; H, 3.78; N, 17.12.

reactant | 4,5-Dichloro-1,2-phenylenediamine | 34.1 mmol, 6.04 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | cyclopropyl isothiocyanate | 37.2 mmol, 3.69 g | C1(CC1)N=C=S | C4H5NS
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 47.4 mmol, 20.1 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 135 mL | N1=CC=CC=C1 | C5H5N
product | 2-(Cyclopropylamino)-5,6-dichloro-1H-benzimidazole | 5.82 g, 70% | C1(CC1)NC1=NC2=C(N1)C=C(C(=C2)Cl)Cl | C10H9Cl2N3
